US05011947
5,5-bis(4-fluorophenyl)-4-methyl-2,4-pentadienal
Lithium diisopropylamide (13 mL of 1.84M solution, 24 mmol) was added to N-ethylidenecyclohexanamine (12 mL of 2M solution, 24 mmol) in tetrahydrofuran at -40° C. After stirring for 30 minutes 3,3-bis(4-fluorophenyl)-2-methylpropenal (2.1 g, 8.1 mmol) was added and the solution stirred for 4 hours during which time the temperature was allowed to rise to -15° C. The solution was quenched with 2N hydrochloric acid and the mixture extracted with diethyl ether. The extracts were dried with magnesium sulfate and concentrated in vacuo. The residue was stirred for 16 hours with a mixture of 100 mL benzene, 65 mL acetic acid and 35 mL of water. The mixture was diluted to 500 mL with water and the aqueous layer was separated and extracted with diethyl ether. The combined organic solution was washed with saturated sodium bicarbonate and water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 1% ethyl acetate in hexane to give after hexane crystallization 1.5 g of the title compound; m.p. =86°-88° C.

reactant | Lithium diisopropylamide | 24 mmol, 1.84M, 13 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-ethylidenecyclohexanamine | 24 mmol, 2M, 12 mL | C(C)=NC1CCCCC1 | C8H15N
reactant | 3,3-bis(4-fluorophenyl)-2-methylpropenal | 8.1 mmol, 2.1 g | FC1=CC=C(C=C1)C(=C(C=O)C)C1=CC=C(C=C1)F | C16H12F2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,5-bis(4-fluorophenyl)-4-methyl-2,4-pentadienal | FC1=CC=C(C=C1)C(=C(C=CC=O)C)C1=CC=C(C=C1)F | C18H14F2O
